US06969716B2
4,2′-Difluoro-5′-(2-oxoacetyl)biphenyl-2-carbonitrile
Selenium dioxide (0.556 g, 5.00 mmol) dissolved in 1,4dioxane:water (4:1, 5 ml) was added in one portion to 5′-acetyl-4,2′-difluorobiphenyl-2-carbonitrile (0.92 g, 3.58 mmol) in 1,4-dioxane (10 ml) and the mixture heated at reflux for 18 h. The reaction was allowed to cool to room temperature, filtered and the filtrate evaporated to give an orange-coloured glassy solid which was used without further purification (0.97 g).

reactant | Selenium dioxide | 5.00 mmol, 0.556 g | [Se](=O)=O | O2Se
reactant | 5′-acetyl-4,2′-difluorobiphenyl-2-carbonitrile | 3.58 mmol, 0.92 g | C(C)(=O)C=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F | C15H9F2NO
solvent | 1,4dioxane water | 5 ml | O1CCOCC1.O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4,2′-Difluoro-5′-(2-oxoacetyl)biphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C(C=O)=O)F)C#N | C15H7F2NO2
